US06090909
A three neck flask of 300 ml equipped with a dropping funnel and a stirrer was charged with 8.22 g of N-(2-(3,5-dinitrobenzoyl)oxyethyl)-α-phenylmaleimide and 150 ml of dioxane, and 30.2 g of stannous chloride (dihydrate) was added thereto while stirring at a room temperature. Dropwise added thereto was 30.2 g of conc. hydrochloric acid at 10° C., and after adding, the mixture was stirred at a room temperature for 3 hours. After finishing the reaction, a 2 N sodium hydroxide aqueous solution was dropwise added to neutralization to filter the reaction solution with cerite. The filtrate was extracted with ethyl acetate twice, and the organic phase was washed with water three times. Then, it was dried on magnesium sulfate anhydrous. After filtering the desiccating agent off, the solution was concentrated under reduced pressure to obtain a yellow solid material. This was recrystallized in ethyl acetate twice to obtain 6.42 g of N-(2-(3,5-diaminobenzoyl)oxyethyl)-α-phenylmaleimide. This compound had a melting point and an NMR spectrum shown below:

reactant | N-(2-(3,5-dinitrobenzoyl)oxyethyl)-α-phenylmaleimide | 8.22 g | [N+](=O)([O-])C=1C=C(C(=O)OCCN2C(C(=CC2=O)C2=CC=CC=C2)=O)C=C(C1)[N+](=O)[O-] | C19H13N3O8
reactant | hydrochloric acid | 30.2 g | Cl | ClH
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | N-(2-(3,5-diaminobenzoyl)oxyethyl)-α-phenylmaleimide | 6.42 g | NC=1C=C(C(=O)OCCN2C(C(=CC2=O)C2=CC=CC=C2)=O)C=C(C1)N | C19H17N3O4
